US08530473B2
8.5 g of 2-[(2-hydroxy-ethyl)-methyl-phenyl-silanyl]-ethyl alcohol is put in 80 ml of anhydrous dichloromethane under nitrogen. 14.2 ml of triethylamine is added, and then, at 0° C., 6.9 ml of mesyl chloride is added dropwise using a dropping funnel. The mixture is stirred for 2 h at 0° C. and gradually turns orange with appearance of a precipitate. Once conversion is complete, 14.2 ml of triethylamine is added and then 4.7 ml of benzylamine at 0° C. The reaction mixture is brought back to room temperature and then refluxed for 6 h. After hydrolysis with H2O at room temperature, the reaction mixture is extracted with ethyl acetate three times. The organic phases are combined, washed with a saturated aqueous solution of sodium chloride, dried over magnesium sulfate and concentrated under vacuum. The raw product obtained is chromatographed on silica gel, eluting with a gradient of ethyl acetate and heptane containing 3% of triethylamine varying from 0/10 to 3/7. 3.6 g of 1-benzyl-4-methyl-4-phenyl-[1,4]azasilinane is obtained in the form of a clear yellow oil.

reactant | 2-[(2-hydroxy-ethyl)-methyl-phenyl-silanyl]-ethyl alcohol | 8.5 g | OCC[Si](CCO)(C1=CC=CC=C1)C | C11H18O2Si
reactant | triethylamine | 14.2 ml | C(C)N(CC)CC | C6H15N
reactant | mesyl chloride | 6.9 ml | S(=O)(=O)(C)Cl | CH3ClO2S
reactant | triethylamine | 14.2 ml | C(C)N(CC)CC | C6H15N
reactant | benzylamine | 4.7 ml | C(C1=CC=CC=C1)N | C7H9N
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
solvent | H2O | O | H2O
product | 1-benzyl-4-methyl-4-phenyl-[1,4]azasilinane | 3.6 g | C(C1=CC=CC=C1)N1CC[Si](CC1)(C1=CC=CC=C1)C | C18H23NSi
